US04645779
α-Ethyl-α-(3-trifluoromethylphenyl)-4-[3-(di-n-propylamino)-propoxy]-benzylalcohol
20.8 g. of α-ethyl-α-(3-trifluoromethylphenyl)-4-(3-bromopropoxy)-benzylalcohol and 41 ml. of dipropyl amine are slightly refluxed with stirring for 6 hours. After cooling, the reaction mixture is evaporated under reduced pressure. To the residue water is added and it is extracted with benzene. The benzene phase is washed with water, dried over anhydrous potassium carbonate and evaporated. The residue is fractionated in vacuo to yield 17.2 g. of the desired compound, boiling at 176° to 178° C./6.6 Pa.

reactant | α-ethyl-α-(3-trifluoromethylphenyl)-4-(3-bromopropoxy)-benzylalcohol | C(C)C(C1=CC=C(C=C1)OCCCBr)(C1=CC(=CC=C1)C(F)(F)F)O | C19H20BrF3O2
reactant | dipropyl amine | C(CC)NCCC | C6H15N
product | α-Ethyl-α-(3-trifluoromethylphenyl)-4-[3-(di-n-propylamino)-propoxy]-benzylalcohol | C(C)C(C1=CC=C(C=C1)OCCCN(CCC)CCC)(C1=CC(=CC=C1)C(F)(F)F)O | C25H34F3NO2
